US07265246B2
Combine 1-iodo-2,4,6-trimethylbenzene (2.966 g, 12.05 mmol), 4-carboxyphenylboronic acid (1.0 g, 6.026 mmol), Pd(OAc)2 (0.0067 g, 0.005 mmol), tetrabutylammonium bromide (0.388 g, 1.2055 mmol), and potassium phosphate (2.557 g, 12.05 mmol). Purge the reaction vessel with argon and add anhydrous dimethylformamide (20 mL) to the reaction mixture. Heat the sealed reaction vessel to 120° C. with stirring until completion as determined by TLC. Cool reaction mixture to room temperature. Add methyl iodide (1.0 mL, 36.63 mmol) to reaction mixture with continued stirring until completion. Dilute the reaction with ethyl acetate and filter though a short plug of celite with additional ethyl acetate. Wash the organics with water, dry over magnesium sulfate, filter and evaporate. Purification by flash column chromatography yields 2′,4′,6′-trimethylbiphenyl-4-carboxylic acid methyl ester as a yellow solid. Dissolve the purified ester in dioxane (45 mL) and water (5 mL) containing 5 eq of LiOH with stirring at 60° C. Upon completion, evaporate the solvent, acidify the reaction mixture with hydrochloric acid, and extract with ethyl acetate. Dry the organics over magnesium sulfate, filter, and evaporate to yield 0.023 g (16%) of the title compound. MS (m/e): 239.1 (M−).

reactant | 1-iodo-2,4,6-trimethylbenzene | 12.05 mmol, 2.966 g | IC1=C(C=C(C=C1C)C)C | C9H11I
reactant | 4-carboxyphenylboronic acid | 6.026 mmol, 1.0 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium phosphate | 12.05 mmol, 2.557 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | methyl iodide | 36.63 mmol, 1.0 mL | CI | CH3I
catalyst | tetrabutylammonium bromide | 1.2055 mmol, 0.388 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Pd(OAc)2 | 0.005 mmol, 0.0067 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2′,4′,6′-trimethylbiphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1C)C)C | C17H18O2
